Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]=[C:2][O:3][H:4],3.40666958171
[C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.40254523005
[H:1][C:2]=[C:3]([H:4])[C:5](=[O:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.53980188726
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],5.261947086619998
[C:3](=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.9883366478900015
[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1],3.47815489363
[H:1][C:2]#[C:3][C:4]([H:5])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.87483894141
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8],-3.97404421369
[C:1]([C:2]([C:3][C:4]#[C:5])[C:9]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]=[C:2]1[C:3][C:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.03940546891
[H:1][C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]1[C:4]([H:5])=[C:6]1[H:7].[H:1][C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.15357469174
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.59107304281
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12].[O:1],4.08335072005
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.12617522547
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:11][H:12],4.30203365633
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:10]([C:9])([H:11])[H:12]>>[H:1][C:2][C:3]1[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12],-0.8700740001999999
[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.83024737926
[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]1[C:3][C:4]([O:5][H:6])[C:7]1([H:8])[H:9],-0.339048309381
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.4967349287399998
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.12370977871
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.74387965241
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.89817111756
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.7574406207
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:12]([H:13])([H:14])[H:15].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],3.3774861787700003
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],2.27766463133
[C:1]#[C:2][C:3]([H:4])[C:5]([O:6][H:7])=[O:8].[H:9]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],-2.41719265067
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1],3.85145484346
[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.85879463539
[C:14]([H:15])([H:16])[H:17].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.33219598129
